US04012413
In the manner given in Preparation 3, 8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetic acid methyl ester is reacted with dimethylamine in dimethylformamide to give N,N-dimethyl-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetamide.

reactant | 8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetic acid methyl ester | COC(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O | C19H14Cl2N4O2
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N-dimethyl-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetamide | CN(C(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O)C | C20H17Cl2N5O
